US07951794B2
A solution of 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone (64 mg, 0.278 mmol) and 3,5-dimethyl-4-hydroxybenzaldehyde (53 mg, 0.334 mmol) in ethanol (1.2 mL) and 5 N HCl in isopropanol (0.6 mL) is stirred at rt for 1 h. The dark green solution is diluted with water and extracted with EA. The organic extract is evaporated, dissolved in methanol (1 mL) and THF (1 mL), and treated with Pd/C (60 mg, 10% Pd). The slurry is hydrogenated under 1.4 bar of H2 for 1.5 h. The mixture is filtered over celite, the solvent is removed in vacuo and the crude product is purified on prep. TLC plates with heptane:EA 2:1 to give 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one (59 mg) as a yellow oil; LC-MS: tR=1.11 min; 1H NMR (CDCl3): δ 7.58 (s, 1H), 7.46-7.30 (m, 5H), 6.85 (s, 2H), 4.56 (s, 1H), 3.18-3.10 (m, 2H), 2.97-2.86 (m, 4H), 2.22 (s, 6H), 1.30 (t, J=7.6 Hz, 3H).

reactant | 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone | 0.278 mmol, 64 mg | C(C)C1=C(C=C(S1)C(C)=O)C1=CC=CC=C1 | C14H14OS
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 0.334 mmol, 53 mg | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
solvent | HCl | 5 N | Cl | ClH
solvent | isopropanol | 0.6 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one | 59 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CC)C | C23H24O2S
